US07799775B2
To 10 ml of tetrahydrofuran, 310 mg of 3-amino-2-[3-(4-quinolin-2-ylpiperazin-1-yl)propylthio]-3,4,5,6,7,8-hexahydro-4-oxa-9-thia-1,3,7-triaza-9H-fluorene trihydrochloride as synthesized in Example 1-59 was added and further 50 mg of ethyl iodide was added. Into this mixture 200 mg of triethylamine was dropped, followed by 3 days' stirring at room temperature. Distilling the solvent off under reduced pressure, the residue was purified on silica gel column chromatography (chloroform:methanol=10:1) to provide 100 mg (37%) of 3-amino-7-ethyl-2-[3-(4-quinolin-2-ylpiperazin-1-yl)-propylthio]-3,4,5,6,7,8-hexahydro-4-oxa-9-thia-1,3,7-triaza-9H-fluorene.

reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | 3-amino-2-[3-(4-quinolin-2-ylpiperazin-1-yl)propylthio]-3,4,5,6,7,8-hexahydro-4-oxa-9-thia-1,3,7-triaza-9H-fluorene trihydrochloride | 310 mg | Cl.Cl.Cl.NN1C(=NC=2SC=3CNCCC3C2O1)SCCCN1CCN(CC1)C1=NC2=CC=CC=C2C=C1
reactant | ethyl iodide | 50 mg | C(C)I | C2H5I
solvent | triethylamine | 200 mg | C(C)N(CC)CC | C6H15N
product | 3-amino-7-ethyl-2-[3-(4-quinolin-2-ylpiperazin-1-yl)-propylthio]-3,4,5,6,7,8-hexahydro-4-oxa-9-thia-1,3,7-triaza-9H-fluorene | 100 mg, 37% | NN1C(=NC=2SC=3CN(CCC3C2O1)CC)SCCCN1CCN(CC1)C1=NC2=CC=CC=C2C=C1 | C26H33N7OS2
